US04702764
To a solution of 3-cyclopropylmethylthio-1,2,4-triazole (3.8 g) in pyridine (30 ml), diethylcarbamoyl chloride (3.4 g) was added, and the resultant mixture was allowed to stand at room temperature for 10 hours. Water (250 ml) was added to the reaction mixture, which was then extracted with chloroform (150 ml) two times. The chloroform extract was washed with 1N hydrochloric acid (150 ml) two times and water (200 ml) one time, dried over magnesium sulfate, and concentrated under reduced pressure to give 5.2 g of 1-diethylcarbamoyl-3-cyclopropylmethylthio-1,2,4-triazole (Compound No. 1). Yield, 84%. M.P. 51°-52° C.

reactant | 3-cyclopropylmethylthio-1,2,4-triazole | 3.8 g | C1(CC1)CSC1=NNC=N1 | C6H9N3S
reactant | diethylcarbamoyl chloride | 3.4 g | C(C)N(C(=O)Cl)CC | C5H10ClNO
reactant | Water | 250 ml | O | H2O
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 1-diethylcarbamoyl-3-cyclopropylmethylthio-1,2,4-triazole | 5.2 g | C(C)N(C(=O)N1N=C(N=C1)SCC1CC1)CC | C11H18N4OS
